US07674825B2
Methyl 7-{[2-(3-fluorophenyl)-1,3-benzothiazol-4-yl]methoxy}-6-[4-(methoxycarbonyl)benzyl]heptanoate
Under argon, 102.8 mg (0.32 mmol) of 4-bromomethyl-2-(3-fluorophenyl)-benzothiazole and 300 mg of MS3A are dissolved in 5 ml of benzene. At room temperature, 82 mg (0.27 mmol) of methyl 6-hydroxymethyl-7-(4-methoxycarbonyl-phenyl)heptanoate (synthesis cf. EP-A-0 341 551, p. 31, Ex. 42) and 92 mg (0.40 mmol) of silver oxide are added. The mixture is stirred at room temperature for 6 days. About 0.2 ml of water is added, the mixture is filtered through Extrelut, which is washed with toluene, and the filtrate is concentrated under reduced pressure and chromatographed.

reactant | 4-bromomethyl-2-(3-fluorophenyl)-benzothiazole | 0.32 mmol, 102.8 mg | BrCC1=CC=CC2=C1N=C(S2)C2=CC(=CC=C2)F | C14H9BrFNS
reactant | methyl 6-hydroxymethyl-7-(4-methoxycarbonyl-phenyl)heptanoate | 0.27 mmol, 82 mg | OCC(CCCCC(=O)OC)CC1=CC=C(C=C1)C(=O)OC | C17H24O5
reactant | water | 0.2 ml | O | H2O
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
catalyst | silver oxide | 0.40 mmol, 92 mg | [Ag]=O
product | Methyl 7-{[2-(3-fluorophenyl)-1,3-benzothiazol-4-yl]methoxy}-6-[4-(methoxycarbonyl)benzyl]heptanoate | FC=1C=C(C=CC1)C=1SC2=C(N1)C(=CC=C2)COCC(CCCCC(=O)OC)CC2=CC=C(C=C2)C(=O)OC | C31H32FNO5S
